US03953432
Benzaldehyde was reacted with 4,4-dimethyl-2-methoxymethyl-2-oxazoline (derived from methoxyacetic acid) to produce 2-(2-phenyl-1-methoxyethenyl)-4,4-dimethyl-2-oxazoline (P-1907), b.p. 122 (0.3 mm)-125 (0.26 mm).

reactant | Benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4,4-dimethyl-2-methoxymethyl-2-oxazoline | CC1(N=C(OC1)COC)C | C7H13NO2
product | 2-(2-phenyl-1-methoxyethenyl)-4,4-dimethyl-2-oxazoline | C1(=CC=CC=C1)C=C(OC)C=1OCC(N1)(C)C | C14H17NO2
